US09102591B2
2-chloro-3-fluoro-N-((4,4-difluoro-1-(6-(trifluoromethyl)pyridin-3-yl)cyclohexyl)methyl)benzamide
From 2-chloro-3-fluorobenzoic acid and (4,4-difluoro-1-(6-(trifluoromethyl)pyridin-3-yl)cyclohexyl)methanamine. LCMS (MIFF): m/z=451.2, tR (minutes, Method D)=0.79

reactant | 2-chloro-3-fluorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1F | C7H4ClFO2
reactant | (4,4-difluoro-1-(6-(trifluoromethyl)pyridin-3-yl)cyclohexyl)methanamine | FC1(CCC(CC1)(C=1C=NC(=CC1)C(F)(F)F)CN)F | C13H15F5N2
product | 2-chloro-3-fluoro-N-((4,4-difluoro-1-(6-(trifluoromethyl)pyridin-3-yl)cyclohexyl)methyl)benzamide | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=CC2)C(F)(F)F)C=CC=C1F | C20H17ClF6N2O
